US05194628
Preparation of 2,2-difluoro-1,3-benzodioxol-4-yl-carbaldehyde
94.0 g (272 mmol) of n-butyllithium (18.5% in toluene) are added dropwise under a nitrogen atmosphere, at from -15° to -10° C., over a period of 1.5 hours, to 29.5 g (254 mmol) of N,N,N',N'-tetramethylethylenediamine and 40.0 g (253 mmol) of 2,2-difluoro-1,3-benzodioxole in 35 ml of toluene, an orange suspension being formed. 19.7 g (270 mmol) of DMF are then metered in at from -15° to -10° C. over a period of 1/2 hour. The pale yellow suspension is poured at +10° C. onto 346 g (1.105 mol) of 11.6% aqueous hydrochloric acid and the whole is stirred for 1/2 hour to complete the reaction. The aqueous phase is separated off and the organic phase is concentrated by evaporation in a vacuum rotary evaporator at 50° C./200 mbar under nitrogen to yield the desired product.

reactant | n-butyllithium | 272 mmol, 94.0 g | C(CCC)[Li]
reactant | N,N,N',N'-tetramethylethylenediamine | 254 mmol, 29.5 g | CN(CCN(C)C)C | C6H16N2
reactant | 2,2-difluoro-1,3-benzodioxole | 253 mmol, 40.0 g | FC1(OC2=C(O1)C=CC=C2)F | C7H4F2O2
reactant | DMF | 270 mmol, 19.7 g | CN(C)C=O | C3H7NO
reactant | hydrochloric acid | 1.105 mol, 346 g | Cl | ClH
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-difluoro-1,3-benzodioxol-4-yl-carbaldehyde | C1=CC(=C2C(=C1)OC(O2)(F)F)C=O | C8H4F2O3
